US07772246B2
Preparation of 3-chloro-5-(1-isopropyl-4-(pyrimidin-4-yl)-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)-pyrimidine (0.05 g, 0.2 mmol), 3-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.089 g, 0.318 mmol) and 2 M aq Na2CO3 (0.067 g, 0.636 mmol, 0.318 mL 3.0 Eq) in DMF (4 mL) was bubbled with Nitrogen for 15 min and DPPF PdCl2 (0.0140 g, 0.019 mmol, 0.06 Eq) was added and then heated in biotage microwave initiator for 2.0 hour at 100° C. and under a high absorption. The resultant black reaction was cooled to room temperature. The reaction was poured into H2O (100 mL) and extracted (3×50 mL EtOAC). The combined organics were dried over Na2SO4 and concentrated in vacuo to a black oil which was purified by Biotage column (Si 25+M) packed with hexanes and eluted with (5% MeOH/EtOAc)/Hexanes (0-50%:700 mL, 50-100%:700 mL, 100%; 700 mL, 27 mL fractions) to yield the product F-1 as an off-white solid (0.025, 50%).

reactant | 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)-pyrimidine | 0.2 mmol, 0.05 g | IC1=NN(C=C1C1=NC=NC=C1)C(C)C | C10H11IN4
reactant | 3-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.318 mmol, 0.089 g | ClC1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C13H16BClN2O2
reactant | Na2CO3 | 0.636 mmol, 2 M, 0.318 mL, 0.067 g, 3.0 Eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | DPPF PdCl2 | 0.019 mmol, 0.0140 g, 0.06 Eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2].Cl[Pd]Cl
product | 3-chloro-5-(1-isopropyl-4-(pyrimidin-4-yl)-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=CNC2=NC=C(C=C21)C2=NN(C=C2C2=NC=NC=C2)C(C)C | C17H15ClN6
